US07700628B2
E. 5-Fluoro-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]-benzoic acid
A solution of methyl 5-fluoro-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]benzoate (7.8 g, 17 mmol) in EtOH (100 mL) and water (100 mL) was treated with KOH (4.8 g, 85 mmol) and stirred at 70° C. for 1 hour. The reaction was concentrated under vacuum, quenched with glacial acetic acid (5.1 g), and allowed to stand at ambient temperature for crystallization. The solid was filtered to recover 7.4 g (98%).

reactant | methyl 5-fluoro-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]benzoate | 17 mmol, 7.8 g | FC=1C=CC(=C(C(=O)OC)C1)NC(C1=C(C=C(C=C1)N1CCCC1)OC1CCN(CC1)C)=O | C25H30FN3O4
reactant | KOH | 85 mmol, 4.8 g | [OH-].[K+]
solvent | EtOH | 100 mL | CCO | C2H6O
solvent | water | 100 mL | O | H2O
product | 5-Fluoro-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]-benzoic acid | FC=1C=CC(=C(C(=O)O)C1)NC(C1=C(C=C(C=C1)N1CCCC1)OC1CCN(CC1)C)=O | C24H28FN3O4
